US04439373
Diethylphosphonomethyl glycine (6 g) was refluxed, for 16 hours, with concentrated hydrochloric acid (20 ml). The reaction mixture was cooled and the solvent was evaporated to obtain glyphosate, which was confirmed by high pressure liquid chromatograph and 31P-nuclear magnetic resonance and infrared spectra.

reactant | Diethylphosphonomethyl glycine | 6 g | C(C)OP(=O)(OCC)CNCC(=O)O | C7H16NO5P
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
